US04092150
A stirred solution of 12.9 grams of 2,4,6-trichloro-5-pyrimidinecarbonitrile in 150 ml of acetone was cooled to -10°, and 7.7 grams of an aqueous 70% ethylamine solution was added dropwise during 2 hours. The temperature of the reaction mixture was maintained at -10° throughout the addition. Following complete addition, the reaction mixture was allowed to warm to room temperature, where it stood for 16 hours. Then most of the acetone was removed by evaporation under reduced pressure. The residue was extracted with a mixture of water and diethyl ether. The ether layer was separated and dried over magnesium sulfate. The dried ether layer was filtered, and the ether was removed under reduced pressure. The residue was recrystallized from a mixture of methylcyclohexane and benzene, then from carbon tetrachloride, to give 4.2 grams of 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile; mp, 145-150°.

reactant | 2,4,6-trichloro-5-pyrimidinecarbonitrile | 12.9 grams | ClC1=NC(=C(C(=N1)Cl)C#N)Cl | C5Cl3N3
reactant | ethylamine | C(C)N | C2H7N
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile | 4.2 grams | ClC1=NC(=NC(=C1C#N)Cl)NCC | C7H6Cl2N4
